US09447118B2
(1S,3S,6R)—N,N-Dimethyl-7-oxabicyclo[4.1.0]heptane-3-carboxamide
Methylene chloride (125 mL) was cooled to 0° C., and (1S,3S,4S)-3-hydroxy-4-bromo-N,N-dimethylcyclohexanecarboxamide (25 g) was then added thereto. Thereafter, a 25% sodium hydroxide aqueous solution (16 mL) was added to the above obtained solution, and the temperature of the obtained mixture was then increased to room temperature, followed by stirring the mixture for 3 hours. Thereafter, the organic layer was separated from the reaction mixture, and was then concentrated and dried to solidify. Thereafter, the resultant was dissolved in ethyl acetate (100 mL), and was then filtered over silica gel (25 g). The filtrate was concentrated and dried to solidify, and heptane (250 ml) was then added thereto, followed by crystallization, to obtain the title compound (13.91 g, yield: 82%).

reactant | (1S,3S,4S)-3-hydroxy-4-bromo-N,N-dimethylcyclohexanecarboxamide | 25 g | O[C@H]1C[C@H](CC[C@@H]1Br)C(=O)N(C)C | C9H16BrNO2
reactant | sodium hydroxide | 16 mL | [OH-].[Na+]
solvent | Methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
product | (1S,3S,6R)—N,N-Dimethyl-7-oxabicyclo[4.1.0]heptane-3-carboxamide | 13.91 g, yield: 82% | CN(C(=O)[C@@H]1C[C@@H]2O[C@@H]2CC1)C | C9H15NO2
